US05306816
To a solution of allyl (4R,5S,6S)-6-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl] -4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (31.4 mg) in a mixture of acetone (1.0 ml) and ethanol (0.1 ml) was added a 30% aqueous solution of hydrogen peroxide (0.2 ml). The reaction was allowed to stand at ambient temperature for 4 days. The mixture was diluted with ethyl acetate, washed with water, 5% aqueous sodium thiosulfate solution, brine, and dried. The solvent was removed off under reduced pressure and the residue was purified by silica gel column chromatography [ethyl acetate-n-hexane (1:3, V/V)] to afford allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (10.1 mg).

reactant | allyl (4R,5S,6S)-6-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl] -4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 31.4 mg | C(C)(C)(C)[Si](O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)SC)C)(C)C | C20H33NO4SSi
reactant | hydrogen peroxide | 0.2 ml | OO | H2O2
solvent | acetone | 1.0 ml | CC(=O)C | C3H6O
solvent | ethanol | 0.1 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 10.1 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)S(=O)C)C | C20H33NO5SSi
